US05534533
3-Bromopropylamine hydrochloride (2.189 g, 10 mmol) was suspended in 15 ml of dry dichloromethane, and to the suspension were added triethylamine (7 ml, 50 mmol) and methyl 2(chlorosulfonyl)benzoate (2.738 g, 10.5 mmol). The mixture was stirred at room temperature for 66 hours, poured into ice water, extracted with dichloromethane, washed with water, dried over sodium sulfate, and concentrated. The residue was purified by flash chromatography on silica gel to give 617 mg of 1,1-Dihydroxy-3-oxo-3H-benzo[d]isothiazole (20%). The isothiazole was etherified with Deg. B-Bh-Ester by the NaH/DMF method described above, and the compound was subjected to deprotection to remove the Bh group by the TFA/Anisole method described above, providing 309 mg of the desired compound 120 (97%).

reactant | 3-Bromopropylamine hydrochloride | 10 mmol, 2.189 g | Cl.BrCCCN
reactant | triethylamine | 50 mmol, 7 ml | C(C)N(CC)CC | C6H15N
reactant | methyl 2(chlorosulfonyl)benzoate | 10.5 mmol, 2.738 g | ClS(=O)(=O)C1=C(C(=O)OC)C=CC=C1 | C8H7ClO4S
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 1,1-Dihydroxy-3-oxo-3H-benzo[d]isothiazole | 617 mg, 20% | OS1(NC(C2=C1C=CC=C2)=O)O | C7H7NO3S
